US06500835B2
1.06 g (4.40 mmol) of 4-amino-3,5-dichlorobenzenesulfonamide and 1.34 g (4.40 mmol) of methyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as Preparation Example 1 to obtain 905 mg (yield 44%) of methyl 2-{[(4-amino-3,5-dichlorobenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate. Properties: colorless amorphous, PMR (δ ppm, DMSO-d6): 3.87 (3H, s), 6.59 (2H, br), 7.22 (1H, dd), 7.72 (2H, s), 7.93 (1H, d), 8.24 (1H, d), 10.17 (1H, s).

reactant | 4-amino-3,5-dichlorobenzenesulfonamide | 4.40 mmol, 1.06 g | NC1=C(C=C(C=C1Cl)S(=O)(=O)N)Cl | C6H6Cl2N2O2S
reactant | methyl 4-chloro-2-N-phenoxycarbonylanthranilate | 4.40 mmol, 1.34 g | ClC=1C=C(C(C(=O)OC)=CC1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
product | methyl 2-{[(4-amino-3,5-dichlorobenzenesulfonylamino)carbonyl]amino}-4-chlorobenzoate | 905 mg, yield 44% | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(=O)NC1=C(C(=O)OC)C=CC(=C1)Cl)Cl | C15H12Cl3N3O5S
